US05663181
2.5 g of 3-[1,2-dihydro-1-(4-methoxyphenyl)-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile, prepared in Example 82, are dissolved in 100 ml of chloroform stabilized with amylene. The yellow solution is cooled to -40° C. and 13.2 ml of a 1 M solution of BBr3 in dichloromethane (2 eq) are then added dropwise at this temperature, with stirring. The mixture is then left to warm up to room temperature and stirring is continued for 15 h. The reaction medium is hydrolyzed by the addition of 100 ml of water, after which the aqueous phase is separated off and extracted several times with dichloromethane. The precipitate which appears is filtered off, washed with acetone and dried to give 0.21 g of 3-[1,2-dihydro-1-(4-hydroxy- phenyl)-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile in the form of a yellow solid melting at >317° C. Yield 9%.

reactant | 3-[1,2-dihydro-1-(4-methoxyphenyl)-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile | 2.5 g | COC1=CC=C(C=C1)N1C(C(=CC2=CC=CN=C12)C=C(C#N)C=1C=NC=CC1)=O | C23H16N4O2
reactant | amylene | CC=C(C)C | C5H10
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 2 eq | ClCCl | CH2Cl2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 3-[1,2-dihydro-1-(4-hydroxy- phenyl)-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile | 0.21 g, Yield 9% | OC1=CC=C(C=C1)N1C(C(=CC2=CC=CN=C12)C=C(C#N)C=1C=NC=CC1)=O | C22H14N4O2
